US05976759
Using 11.4 g of poly(p-hydroxystyrene/p-tert-butoxycarbonyloxystyrene) obtained according to (2) above and 2.5 g of ethylvinyl ether, the procedure of (3) of Preparation Example 1 was carried out for reaction and after-treatments to obtain 6.7 g of poly(p-1-ethoxyethoxystyrene/p-hydroxystyrene/p-tert-butoxycarbonyloxystyrene) as white powdery crystal. P-1-ethoxyethoxystyrene unit/p-hydroxystyrene unit/p-tert-butoxycarbonyloxystyrene unit molar ratio in the polymer≈30:64:6 (1H NMR). Mw≈20,000; Mw/Mn=1.90 (GPC with polystyrene calibration).

reactant | p-hydroxystyrene p-tert-butoxycarbonyloxystyrene | OC1=CC=C(C=C)C=C1.C(C)(C)(C)OC(=O)OC1=CC=C(C=C)C=C1
reactant | ethylvinyl ether | 2.5 g | C(C)OC=C | C4H8O
product | p-1-ethoxyethoxystyrene p-hydroxystyrene p-tert-butoxycarbonyloxystyrene | C(C)OCCOC1=CC=C(C=C)C=C1.OC1=CC=C(C=C)C=C1.C(C)(C)(C)OC(=O)OC1=CC=C(C=C)C=C1 | InChI=1S/C13H16O3.C12H16O2.C8H8O/c1-5-10-6-8-11(9-7-10)15-12(14)16-13(2,3)4;1-3-11-5-7-12(8-6-11)14-10-9-13-4-2;1-2-7-3-5-8(9)6-4-7/h5-9H,1H2,2-4H3;3,5-8H,1,4,9-10H2,2H3;2-6,9H,1H2
